US06387938B1
Synthesis of 3-(2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoic acid dimethylamide
Pyridine (0.365 mL) and magnesium chloride (215 mg) were added to dry dichloromethane (2.2 mL) solution of N,N-dimethylacetamide, and the mixture was vigorously stirred at room temperature for 1.5 hours under an atmosphere of argon. Next, a catalytically effective amount of N,N-dimethylaminopyridine and 1,1′-carbonyldiimidazole (134 mg) were added to anhydrous tetrahydrofuran (2 mL) suspension of 2-(2-phenylethyl)benzimidazole-4-carboxylic acid (0.2 g) obtained in Reference Example 3, and the mixture was stirred for 1.5 hours under an atmosphere of argon. The reaction solution was added to the previously prepared N,N-dimethylacetamide suspension of magnesium salt while cooling in an ice bath, and the mixture was stirred at room temperature for 2 hours. This was diluted with ice water and adjusted to pH 1 with 1 N hydrochloric acid while cooling in an ice bath. At the same temperature, this was neutralized with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) and the desired fraction was concentrated to obtain the title compound as colorless crystal (43 mg).

reactant | magnesium chloride | 215 mg | [Cl-].[Mg+2].[Cl-]
reactant | 1,1′-carbonyldiimidazole | 134 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2-phenylethyl)benzimidazole-4-carboxylic acid | 0.2 g | C1(=CC=CC=C1)CCC=1NC2=C(N1)C=CC=C2C(=O)O | C16H14N2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 2.2 mL | ClCCl | CH2Cl2
solvent | Pyridine | 0.365 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoic acid dimethylamide | 43 mg | CN(C(CC(=O)C1=CC=CC=2N=C(NC21)CCC2=CC=CC=C2)=O)C | C20H21N3O2
